US06498254B1
Preparation of 5-chloro-2(benzylthio)pyridine-N-oxide
A solution consisting of 1.1 g (0.016 mole) of 85% KOH pellets, 50 ml of ethanol, and 0.5 ml of water was prepared. To this solution was added slowly, with stirring at room temperature, a mixture of 3.3 g (0.02 mole) of 2,5-dichloropyridine-N-oxide and 2.5 g (0.02 mole) of benzylmercaptan dissolved in 25 ml of ethanol. The reaction mixture was heated to about 60° C. for 2 hours and then evaporated to dryness. The residue was taken up in water and chloroform, the phases separated and the chloroform phase was dried over Na2SO4. The Na2SO4 was filtered off and the chloroform evaporated to leave a solid. The solid was recrystallized from ethanol to give 3.0 g of material, having a melting point of 130-133° C. Recovery was 2.2 g. The structure was confirmed by its IR spectrum.

reactant | KOH | 0.016 mole, 1.1 g | [OH-].[K+]
reactant | water | 0.5 ml | O | H2O
reactant | 2,5-dichloropyridine-N-oxide | 0.02 mole, 3.3 g | ClC1=[N+](C=C(C=C1)Cl)[O-] | C5H3Cl2NO
reactant | benzylmercaptan | 0.02 mole, 2.5 g | C(C1=CC=CC=C1)S | C7H8S
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-chloro-2(benzylthio)pyridine-N-oxide | 3.0 g | ClC=1C=CC(=[N+](C1)[O-])SCC1=CC=CC=C1 | C12H10ClNOS
